US06949574B2
2-(4-Butoxy-phenyl)-butyric acid:
(Scheme 2, Compound F) To a solution of 2-(4-butoxy-phenyl)-butyric acid methyl ester (2.0 g, 8.0 mmol) in EtOH (30 mL) was added NaOH (10 N, 6 mL, 60 mmol). The resulting mixture was stirred at rt for 3 hours, diluted with H2O (30 mL), acidified to pH˜1.0 using HCl (6N). The precipitates were filtered off by filter paper, washed by H2O and hexanes. This compound was obtained as a white solid. (1.4 g, 5.9 mmol, 74% yield). 1H NMR (DMSO-d6) δ 12.20 (br. s, 1H), 7.16 (d, 2H, J=7.0 Hz), 6.87 (d, 2H, J=8.5 Hz), 3.92 (t, 2H, J=6.5 Hz), 3.31 (t, 2H, J=6.9 Hz), 1.93 (m, 1H), 1.63 (m, 3H), 1.42 (m, 2H), 0.97 (t, 3H, J=7.2 Hz), 0.79 (t, 3H, J=4.0 Hz).

reactant | 2-(4-butoxy-phenyl)-butyric acid methyl ester | 8.0 mmol, 2.0 g | COC(C(CC)C1=CC=C(C=C1)OCCCC)=O | C15H22O3
reactant | NaOH | 60 mmol, 10 N, 6 mL | [OH-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | EtOH | 30 mL | CCO | C2H6O
solvent | H2O | 30 mL | O | H2O
product | 2-(4-Butoxy-phenyl)-butyric acid | 74% yield | C(CCC)OC1=CC=C(C=C1)C(C(=O)O)CC | C14H20O3
